US09023854B2
28.4 5-Chloro-3-(2-ethoxypyridin-3-yl)-3-{2-[4-(1-methylpiperidin-4-yl)piperazin-1-yl]-2-oxoethyl}-1,3-dihydroindol-2-one
195 mg (1.44 mmol) of 1-hydroxybenzotriazole and 276 mg (1.44 mmol) of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride were added to a solution of 1.00 g of [5-chloro-3-(2-ethoxypyridin-3-yl)-2-oxo-2,3-dihydro-1H-indol-3-yl]acetic acid in 10 ml of dimethylformamide and, after stirring for 15 minutes, 277 mg (1.51 mmol) of 1-(1-methylpiperidin-4-yl)piperazine and 1.00 ml (7.41 mmol) of triethylamine were added. The reaction mixture was stirred at room temperature overnight. The reaction mixture was mixed with water and extracted with ethyl acetate several times. The combined organic phase was extracted with water and saturated sodium chloride solution and dried over magnesium sulfate, and the solvent was concentrated in vacuo. The residue was purified by chromatography on silica gel (12 g Redisep cartridge, mobile phase gradient from 10 to 70% methanol in dichloromethane). 311 mg of the title compound were obtained as a white foam.

reactant | 1-hydroxybenzotriazole | 1.44 mmol, 195 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.44 mmol, 276 mg | Cl.CN(CCCN=C=NCC)C
reactant | [5-chloro-3-(2-ethoxypyridin-3-yl)-2-oxo-2,3-dihydro-1H-indol-3-yl]acetic acid | 1.00 g | ClC=1C=C2C(C(NC2=CC1)=O)(C=1C(=NC=CC1)OCC)CC(=O)O | C17H15ClN2O4
reactant | 1-(1-methylpiperidin-4-yl)piperazine | 1.51 mmol, 277 mg | CN1CCC(CC1)N1CCNCC1 | C10H21N3
reactant | triethylamine | 7.41 mmol, 1.00 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-Chloro-3-(2-ethoxypyridin-3-yl)-3-{2-[4-(1-methylpiperidin-4-yl)piperazin-1-yl]-2-oxoethyl}-1,3-dihydroindol-2-one | 311 mg | ClC=1C=C2C(C(NC2=CC1)=O)(CC(=O)N1CCN(CC1)C1CCN(CC1)C)C=1C(=NC=CC1)OCC | C27H34ClN5O3
